US05539115
1.0 g of (-)-2-(4-(3-hydroxy-1-butenyl)phenyl)-5-decyloxypyrimidine was dissolved in 20 ml of pyridine, added with 0.5 g of butyryl chloride and stirred at 25°-30° C. for 4 hours. The reaction mixture was diluted with 100 ml of toluene and washed with 4N hydrochloric acid, water, a 5% sodium bicarbonate solution and water successively in that order. The toluene layer was concentrated under reduced pressure and the residue was purified by silica gel column chromatography using toluene/ethyl acetate as eluent to obtain 1.05 g of (+)-2-(4-(3-butyryloxy-1-butenyl)phenyl)-5-decyloxy-pyrimidine.

reactant | (-)-2-(4-(3-hydroxy-1-butenyl)phenyl)-5-decyloxypyrimidine | 1.0 g | OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C | C24H34N2O2
reactant | butyryl chloride | 0.5 g | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-2-(4-(3-butyryloxy-1-butenyl)phenyl)-5-decyloxy-pyrimidine | 1.05 g | C(CCC)(=O)OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C | C28H40N2O3
